US07071358B2
Step A. 1-(4-Cyclopentylamino-phenyl)-2,2,2-trifluoro-ethanone
To a mixture of 3.94 g of 2,2,2,4′-tetrafluoroacetophenone (20.5 mmol) and 3.35 ml triethylamine (24.0 mmol) in 40 ml of acetonitrile at 0° C. were added 5.9 ml of cyclopentylamine (59.8 mmol). The reaction was allowed to warm to room temperature and then heated to reflux for 14 h. After this time the reaction mixture was cooled to room temperature, concentrated and partitioned between water and EtOAc. The organic layer was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography on silica (hexanes:EtOAc, 4:1) to give the title compound. 1H-NMR (CDCl3) δ 1.53–1.57 (m, 2H), 1.69–1.78 (m, 4H), 2.08–2.13 (m, 2H), 3.88–3.95 (m, 1H), 4.63 (brs, 1H), 6.60 (d, J=8.9 Hz, 2H), 7.92 (d, J=8.9 Hz, 2H). Mass Spectrum (CI+) m/e=258.1 (M+1).

reactant | 2,2,2,4′-tetrafluoroacetophenone | 20.5 mmol, 3.94 g | FC(C(=O)C1=CC=C(C=C1)F)(F)F | C8H4F4O
reactant | triethylamine | 24.0 mmol, 3.35 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentylamine | 59.8 mmol, 5.9 ml | C1(CCCC1)N | C5H11N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(4-Cyclopentylamino-phenyl)-2,2,2-trifluoro-ethanone | C1(CCCC1)NC1=CC=C(C=C1)C(C(F)(F)F)=O | C13H14F3NO
